US05075443
Cool the isobutyramidine hydrochloride solution in an ice bath. Charge 8 gm. (0.07 mole) dimethyl (N-cyanoimido)carbonate to the solution, followed by 5.8 gm. (0.073 mole) 50% NaOH, added dropwise. Stir while letting the mixture warm to room temperature for one hour. Remove the methanol by vacuum stripping, and slurry the resulting solids in75 ml. water. Cool and filter. Upon drying, 7.2 gm. (61.2%) 2-amino-4-isopropyl-6-methoxy-s-triazine is obtained, mp 116°-117° C.

reactant | isobutyramidine hydrochloride | Cl.C(C(C)C)(=N)N
reactant | dimethyl (N-cyanoimido)carbonate | 0.07 mole | COC(=NC#N)OC | C4H6N2O2
reactant | NaOH | 0.073 mole | [OH-].[Na+]
product | 2-amino-4-isopropyl-6-methoxy-s-triazine | 61.2% | NC1=NC(=NC(=N1)C(C)C)OC | C7H12N4O
